US03951987
1.8 G. of 4'-[(2-chloroethyl)thio]acetanilide, 2.7 g. of 4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine, 4.5 g. of potassium carbonate and a few crystals of potassium iodide are heated under reflux conditions in 50 ml. of ethanol and 5 ml. of water for 16 hours. The solvent is evaporated under reduced pressure, the residue is taken up in chloroform and washed with water. From the organic phase there is obtained crude 4'-{[2-[4-(p-fluorophenyl)-3,6-dihydro-1(2H)-pyridyl]-ethyl]thio}acetanilide which melts at 150°-152°C. after recrystallization from acetic acid ethyl ester.

reactant | 4'-[(2-chloroethyl)thio]acetanilide | ClCCSC1=CC=C(NC(C)=O)C=C1 | C10H12ClNOS
reactant | 4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine | FC1=CC=C(C=C1)C=1CCNCC1 | C11H12FN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4'-{[2-[4-(p-fluorophenyl)-3,6-dihydro-1(2H)-pyridyl]-ethyl]thio}acetanilide | FC1=CC=C(C=C1)C=1CCN(CC1)CCSC1=CC=C(NC(C)=O)C=C1 | C21H23FN2OS
